US04528311
Preparation of Intermediate 3-(3',5'-Di-tert-butyl-4'-hydroxyphenyl)-1-propanol
A solution of methyl 3-(3',5'-di-tert-butyl-4'-hydroxyphenyl)propionate (117 g, 0.4 mol) in 200 ml of anhydrous ether was added dropwise to a mixture of lithium aluminum hydride (17 g, 0.45 mol) and anhydrous ether (800 ml) under an inert atmosphere with ice-water cooling. After the addition was completed, the reaction mixture was heated at reflux temperature for one hour, then cooled to room temperature. To the cooled mixture was added dropwise 80 ml of 3% sodium hydroxide aqueous solution with vigorous stirring and with ice-water cooling. After the addition was completed, the mixture was stirred at room temperature for 30 minutes. A white precipitate was separated by filtration and washed with ether. The filtrate and washings were combined and evaporated. The residue was vacuum distilled to give 101 g (95%) of the product.

reactant | methyl 3-(3',5'-di-tert-butyl-4'-hydroxyphenyl)propionate | 0.4 mol, 117 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)OC | C18H28O3
reactant | lithium aluminum hydride | 0.45 mol, 17 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 80 ml | [OH-].[Na+]
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ether | 800 ml | CCOCC | C4H10O
product | 3-(3',5'-Di-tert-butyl-4'-hydroxyphenyl)-1-propanol | 101 g, 95% | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCCO | C17H28O2
